US06710054B2
N-[5,7-DIMETHYL-3-(4-{2-[({[(4-METHYLPHENYL)SULFONYL]AMINO}CARBONYL)AMINO]ETHYL}PHENYL)-3H-IMIDAZO[4,5-b]PYRIDIN-2-YL]ACETAMIDE
2-amino-5,7-dimethyl-3-(4-{2-[({[(4-methylphenyl)sulfonyl]amino}carbonyl)amino]ethyl}phenyl)-3H-imidazo[4,5-b]pyridine (73 mg) was treated with pyridine (1 ml) and Ac2O (0.2 ml) at room temperature for 3 hours. After evaporation in vacuo, the residue was purified by preparative TLC (hexane/acetone=1/1) to afford 4 mg (5%) of the title compounds.

reactant | 2-amino-5,7-dimethyl-3-(4-{2-[({[(4-methylphenyl)sulfonyl]amino}carbonyl)amino]ethyl}phenyl)-3H-imidazo[4,5-b]pyridine | 73 mg | NC1=NC=2C(=NC(=CC2C)C)N1C1=CC=C(C=C1)CCNC(=O)NS(=O)(=O)C1=CC=C(C=C1)C | C24H26N6O3S
reactant | Ac2O | 0.2 ml | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[5,7-DIMETHYL-3-(4-{2-[({[(4-METHYLPHENYL)SULFONYL]AMINO}CARBONYL)AMINO]ETHYL}PHENYL)-3H-IMIDAZO[4,5-b]PYRIDIN-2-YL]ACETAMIDE | 4 mg, 5% | CC1=CC(=C2C(=N1)N(C(=N2)NC(C)=O)C2=CC=C(C=C2)CCNC(=O)NS(=O)(=O)C2=CC=C(C=C2)C)C | C26H28N6O4S
